US07585885B2
(R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester
Add sulfur trioxide pyridine complex (1.99 g, 12.46 mmol) to a solution of (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3,3-dimethyl-2-oxo-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.83 g, 6.23 mmol) and triethylamine (3.5 mL, 24.9 mmol) in dimethyl sulfoxide (14 mL) at 10° C. Stir 50 minutes, dilute with ethyl acetate and wash with water, saturated aqueous sodium chloride, dry with magnesium sulfate. Purify on silica gel with dichloromethane/ethyl acetate mixtures to give the desired compound as a foam (2.69 g, 95%).

reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3,3-dimethyl-2-oxo-butoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.23 mmol, 2.83 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC(C(C)(C)C)=O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H42F2N2O6
reactant | triethylamine | 24.9 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 14 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.69 g, 95% | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)=O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H30F2N2O5
